US08669234B2
3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
N,N-diisopropylethylamine (5.3 mL, 30.6 mmol) was added dropwise to a mixture of pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester (2.2 g, 10.1 mmol), HATU (4.0 g, 10.5 mmol), the HCl salt of 2-amino-1-(4-bromophenyl)ethanone (2.4 g, 9.6 mmol), and DMF (40 mL), and stirred at ambient condition for 1 hour. Most of the volatile component was removed in vacuo, and the resulting residue was dissolved in ethyl acetate (150 mL), washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product as a white foam-like solid (3.5 g, 90%). m/z 432.9, 434.9 (M+Na)+.

reactant | N,N-diisopropylethylamine | 30.6 mmol, 5.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | 10.1 mmol, 2.2 g | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)O | C10H17NO4
reactant | HATU | 10.5 mmol, 4.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | Cl | ClH
reactant | 2-amino-1-(4-bromophenyl)ethanone | 9.6 mmol, 2.4 g | NCC(=O)C1=CC=C(C=C1)Br | C8H8BrNO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(NCC(=O)C1=CC=C(C=C1)Br)=O | C18H23BrN2O4
